US07414063B2
[2-(2-Benzyl-phenoxy)-ethyl]-[2-(isoquinoline-5-sulfonylamino)-ethyl]-carbamic acid tert-butyl ester
Di-tert-butyl dicarbonate (57.4 mg, 0.263 mmol) is added to a stirred solution of isoquinoline-5-sulfonic acid {2-[2-(2-benzyl-phenoxy)-ethylamino]-ethyl}-amide (67.5 mg, 0.146 mmol) in anhydrous CH2Cl2 (1 mL) at ambient temperature under nitrogen. The resultant solution is stirred for 1 hour. The mixture is subject to chromatography on silica (gradient 0-10% CH3OH in CH2Cl2) to give 82 mg (0.15 mmol, 100% yield) of the title compound as a gum. ESIMS: m/z 562 (M+H)+. Analysis for C31H35N3O5S: calcd: C, 66.29; H, 6.28; N, 7.48; found: C, 65.96; H, 6.23; N, 7.37.

reactant | Di-tert-butyl dicarbonate | 0.263 mmol, 57.4 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | isoquinoline-5-sulfonic acid {2-[2-(2-benzyl-phenoxy)-ethylamino]-ethyl}-amide | 0.146 mmol, 67.5 mg | C(C1=CC=CC=C1)C1=C(OCCNCCNS(=O)(=O)C=2C=3C=CN=CC3C=CC2)C=CC=C1 | C26H27N3O3S
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
product | [2-(2-Benzyl-phenoxy)-ethyl]-[2-(isoquinoline-5-sulfonylamino)-ethyl]-carbamic acid tert-butyl ester | 0.15 mmol, 82 mg, 100% yield | C(C)(C)(C)OC(N(CCNS(=O)(=O)C=1C=2C=CN=CC2C=CC1)CCOC1=C(C=CC=C1)CC1=CC=CC=C1)=O | C31H35N3O5S
